US06821972B2
2-Chloro-N′-hydroxy-3-pyridinecarboximidamide
Sodium methoxide (150 mi of 0.25M solution in methanol, 37.5 mmol) was added to a solution of hydroxylamine hydrochloride (2.8 g, 39.7 mmol) in methanol (150 mL), and the reaction was stirred at room temperature for 30 minutes. The mixture was filtered, then 2-chloro-3-cyanopyridine (5.0 g, 36.1 mmol) was added, the reaction was stirred at room temperature for 16 hours and then heated to reflux for 2 hours. The reaction was cooled to room temperature, concentrated in vacuo to approximately 50 mL and filtered. The filtrate was concentrated to dryness in vacuo, the residue was triturated with dichloromethane and filtered to give the title compound as a white solid (6.2 g).

reactant | Sodium methoxide | 37.5 mmol, 0.25M | C[O-].[Na+]
reactant | hydroxylamine hydrochloride | 39.7 mmol, 2.8 g | Cl.NO
reactant | 2-chloro-3-cyanopyridine | 36.1 mmol, 5.0 g | ClC1=NC=CC=C1C#N | C6H3ClN2
solvent | methanol | 150 mL | CO | CH4O
product | 2-Chloro-N′-hydroxy-3-pyridinecarboximidamide | 6.2 g | ClC1=NC=CC=C1C(N)=NO | C6H6ClN3O
